Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Reason for Consult: Increased falls, gait instability 

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ man with drug refractory post traumatic
epilepsy secondary to a motor vehicle accident that he sustained
in ___. He is well known to the epilepsy service and is 
followed
by Dr. ___ in the Comprehensive Epilepsy
Program at ___. His mother accompanies him and provides a
history. 

She explains that he was recently discharged from the hospital
after transitioning from lacosamide to clobazam. The lacosamide
had been initiated one day prior to his most recent admission 
and
had to be discontinued because apparently he had  "a big grand
mal" the next night. She explains that while he was in house, he
had no difficulties with gait as he was mostly in bed all day
long. However, after he went home, the seizures were under
excellent control with clobazam, but his gait has been
"completely off". She explains that this is a young man who was
previously able to climb up and down the stairs in his three
story home with grocery bags in each arm. While his previous
brain injury may have caused some right arm weakness, he
certainly never had any gait difficulties. He has always been
insistent on being independent and has never had any falls or
problems with balance. After being discharged on clobazam, he 
has
been quite unsteady on his feet. On numerous occasions, she has
had to run up the stairs after she heard a loud thud from his
room, to find lying on his side. She has had to support him 
while
he wakes up in the middle of the night to urinate, as he is not
able to stand and urinate without "getting wobbly" or woozy. He
has not had vertigo or headaches. He has been able to eat and
drink without difficulty. There has been no nausea or vomitting.
She also reports that the problem tends to persist throughout 
the
day, and not just after his medications. She did report however
that he has still tended to do well in his physical therapy
sessions, but has not been doing well at home. 

___ and his mother met ___ of the epilepsy
clinics just five days ago, where his clobazam 10AM, 20mg ___ was
reduced to 10mg AM and 15mg ___. This however, has not made a
significant difference in his gait instability. 

During his most recent hospitalization in ___, he was
admitted to the epilepsy monitoring unit following a prolonged
seizure. No clear infectious or metabolic trigger was 
identified.
He was maintained on EEG monitoring which revealed frequent 
focal
seizures. Lacosamide was weaned off and he was switched to
valproic acid. But this appeared to cause an encephalopathic
state with increased delta activity and inattention. The VPA was
then switched to clobazam. A RBBB was noted on his EKG, and
cardiology was consulted and they felt that this abnormality was
likely benign variant and required no further interventions or
work up. 

Review of systems is negative unless stated above. 

 
Past Medical History:
Regarding his epilepsy history, we know that his seizures began
at age ___, approximately one year after a severe traumatic brain
injury during a motor vehicle accident.  During the MVA, a 
wooden
post was driven into his skull causing extensive left hemisphere
damage.  He required a left craniotomy and was hospitalized for
more than one month and then prolonged rehabilitation.  He was
left with a significant left hemiparesis, aphasia, and cognitive
deficits, as well as difficult to control epilepsy.  His mother
reports that his longest seizure-free interval has been
approximately one year.  More recently, he has had several
admissions for medication changes, then breakthrough prolonged
seizures or prolonged postictal changes.  He was initially
admitted in early ___ for a switch from Keppra (severe
behavioral side effects) to Vimpat, then was readmitted in mid
___ after a breakthrough seizure in the setting of 
vomiting.
His typical seizures consist of an initial confused look, then
head version to the left with staring, sometimes with secondary
generalization.  Many of his seizures are quite prolonged,
lasting up to 30 minutes. He also has generalized tonic-clonic
seizures without clear focal onset, as well as some subclinical
seizures seen on EEG monitoring.  He has failed multiple
antiepileptic medications, including Keppra (behavioral 
changes),
Dilantin (allergy), zonisamide, lacosamide.  Many of his 
seizures
are precipitated by infection or hyponatremia. Other medical
history includes hypercholesterolemia, for which he is 
maintained
on a statin medication. 
 

 
Social History:
___
Family History:
Family History:
Mother ___ yo, hypercholesterolemia, Hypertension, asthma.
Father ___ yo, hypercholetsrolemia, Hypertension, DM. 

 
Physical Exam:
Exam on admission:
vital signs were 98.5, HR 79, BP
119/66, RR 16, 100% RA. ___ is a young man who was largely
cooperative and pleasant. He had a somewhat childish demeanour
and made little by way of eye contact. He spoke slowly in mostly
moans and groans and throughout the interview, he kept pointing
at his mother and telling her to "shush". His head had sequelae
of prior left hemicraniectomy. No conjunctival changes were
noted. Mucous membranes were moist and oropharynx is clear of
lesions. Neck was supple without masses or thyromegaly. Chest
examination revealed regular heart sounds without murmurs, and
lungs were clear to auscultation bilaterally. Belly was soft
without focal tenderness, and extremities were warm and well
perfused. Skin examination showed no rashes or lesions.  

Neurologically, the patient is awake and alert. He could tell me
his name. He responded slowly and in short sentences. He was
anomic to low frequency objects. He followed simple commands, 
but
there was quite a bit of perseveration. He was quite dysarthric. 


Cranial nerve examination revealed round, equal and reactive
pupils. Extraocular movements were full with left beating
horizontal nystagmus on leftward gaze. There was a subtle left
facial droop. Hearing was grossly intact. Palate elevates
symmetrically, and the strength of trapezii and SCMs was ___
bilaterally. Tongue was midline and without fasiculations.
Strength examination showed a right spastic hemiparesis with
hyperreflexia. The right arm is flexed at baseline, as was the
right wrist. Wrist and finger extension were ___ on the right.
The right lower extremity was also weak at both the gastroc and
TA muscle groups (___): he was quite weak in both ankle
dorsiflexion and plantarflexion. The remainder of the motor
examination was unremarkable. The right toe was upgoing. He had
normal sensation to light touch and cold sensation over both 
legs
and feet. When asked to walk, ___ walked with both feet
externally rotated and displayed a steppage-like gait on the
right > left. His stride length was short. He was not able to
tandem, and his posture was somewhat stooped. 

 
Pertinent Results:
Laboratory Data:  
BMP: 137  ___   AGap=11 
     4.7  29  0.9  
CBC: 4.1, 41.4, 210, MCV: 101 
 N:58.3 L:29.6 M:7.0 E:3.9 Bas:1.1 
UA: Tr protein 
UTOX: negative
NCHCT: previously appreciate left encephalomalacia, unchanged. 
No
new hemorrhage. 

___ 02:20PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 02:20PM URINE  COLOR-Yellow APPEAR-Cloudy SP ___
___ 02:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 02:20PM URINE  RBC-0 WBC-0 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 12:28PM   GLUCOSE-78 UREA N-13 CREAT-0.9 SODIUM-137 
POTASSIUM-4.7 CHLORIDE-102 TOTAL CO2-29 ANION GAP-11
___ 12:28PM   WBC-4.1 RBC-4.11* HGB-14.0 HCT-41.5 MCV-101* 
MCH-34.1* MCHC-33.8 RDW-12.4
___ 12:28PM   NEUTS-58.3 ___ MONOS-7.0 EOS-3.9 
BASOS-1.1
___ 12:28PM   PLT COUNT-210

CT Head ___:
FINDINGS:  Again, encephalomalacia and calcification seen in the 
left temporal 
region with ex vacuo dilatation of the left lateral ventricle.  
Overall, no 
significant interval change is seen.  There is no evidence of 
hemorrhage, mass 
effect, or midline shift seen.  There are no new areas of loss 
of gray-white 
matter differentiation seen.  The right ventricle is normal in 
size.  There is 
a craniectomy on the left. 
  
IMPRESSION:  No significant interval change in appearance of 
left temporal 
encephalomalacia and ex vacuo dilatation of the left lateral 
ventricle 
compared to the prior CT of ___.  No significant interval 
abnormalities 
are seen. 

EEG ___:
FINDINGS:  
PUSHBUTTONS: No events were identified. 
AUTOMATED INTERICTAL EPILEPTIFORM ACTIVITY: A focal area of 
persistent ___ 
Hz delta frequency slowing was seen in the left anterior 
quadrant. 
The background was moderate amplitude ___ Hz mixed theta and 
alpha frequency 
activity. 
AUTOMATED SPIKE DETECTION: A few events were captured for sharp 
mixed 
frequency activity seen in the left temporal region consistent 
with breach 
artifact. 
AUTOMATED SEIZURE DETECTION: This algorithm captured no events. 
SLEEP: Some periods of slow wave sleep were seen, but most were 
seen in the 
daytime/morning hours. During the nighttime hours, the patient 
had extended 
periods of apparent wakefulness. 
CARDIAC MONITOR: Revealed a generally regular rhythm with 
average rate of 72 
bpm. 
IMPRESSION: This 24 hour EEG telemetry did not capture any 
epileptiform 
activity. A persistent area of focal slowing was seen in the 
left anterior 
quadrant with a breach rhythm. Background activity was somewhat 
slower and 
more variable than average. 
  
 
INTERPRETED BY: ___. 

EEG ___:
FINDINGS:  
PUSHBUTTONS: One event was identified at 6:12:25 in which the 
patient is 
talking to a nurse because he is unhappy about not being allowed 
out of bed. 
During this event, he shakes his left hand/arm for a couple of 
seconds and 
says that he is having a seizure. Except for movement artifact, 
no other EEG 
or EKG changes are seen prior to or following this event. 
AUTOMATED INTERICTAL EPILEPTIFORM ACTIVITY: A persistent area of 
___ Hz delta 
frequency focal slowing was seen in the left anterior quadrant. 
Background 
activity consisted of mixed ___ Hz theta frequency activity. 
AUTOMATED SPIKE DETECTION: A few events were captured for sharp 
mixed 
frequency activity in the left anterior quadrant consistent with 
breach 
artifact. 
AUTOMATED SEIZURE DETECTION: Three events were captured, all for 
chewing 
artifact. 
SLEEP: Some periods of slow wave sleep were seen, primarily 
during the 
daytime hours. 
CARDIAC MONITOR: The majority of this tracing demonstrated a 
generally 
regular rhythm with an average rate of 78 bpm. 
IMPRESSION: This 24 hour EEG telemetry captured no epileptiform 
activity. An 
area of persistent focal slowing in the left anterior quadrant, 
consistent 
with an area of subcortical dysfunction. Otherwise, background 
activity is 
slower than average and somewhat disorganized. The single 
clinical event 
identified was not associated with any epileptiform activity. 
  
 
INTERPRETED BY: ___. 

EEG ___:
FINDINGS:  
PUSHBUTTONS: None were activated during this 24 hour period. 
AUTOMATED INTERICTAL EPILEPTIFORM ACTIVITY: In the fully awake 
state, a well- 
formed mixed ___ Hz theta and alpha frequency background was 
seen. A 
persistent area of focal slowing was present in the left 
anterior quadrant 
with superimposed low voltage beta activity and embedded sharp 
features 
(consistent with breach artifact). 
AUTOMATED SPIKE DETECTION: This algorithm identified waveforms 
in the left 
frontal region that represented sharpening of the beta breach 
activity. No 
spikes or sharp waves were seen. 
AUTOMATED SEIZURE DETECTION: This algorithm captured five 
events, all 
associated with chewing or breach artifact. 
SLEEP: Some periods of slow wave sleep were seen in the 
overnight hours. 
CARDIAC MONITOR: Revealed a generally regular rhythm with 
average rate of 72 
bpm. 
IMPRESSION: This 24 hour EEG telemetry did not identify any 
epileptiform 
activity. As seen on previous days' recordings, a slow 
background was 
present with a focal area of persistent slowing in the left 
anterior quadrant 
with an associated breach rhythm. 
  
 
INTERPRETED BY: ___. 

EEG ___:
FINDINGS:  
PUSHBUTTONS: No events were identified. 
AUTOMATED INTERICTAL EPILEPTIFORM ACTIVITY: In the fully awake 
state, a 
moderately well-organized ___ Hz theta frequency background was 
seen. A 
focal area of ___ Hz delta frequency slowing was seen in the 
left anterior 
quadrant broadly. 
AUTOMATED SPIKE DETECTION: This algorithm captured a single 
event associated 
with electrode artifact. 
AUTOMATED SEIZURE DETECTION: Two events were captured by this 
algorithm; both 
were associated with electrode artifact. 
SLEEP: No periods of slow wave sleep were seen during this 
recording. 
CARDIAC MONITOR: Revealed a generally regular rhythm with 
average rate of 66 
bpm. 
IMPRESSION: This continuous EEG recording did not capture any 
epileptiform 
activity. 
  
 
INTERPRETED BY: ___. 

 
Brief Hospital Course:
___ M with a history of penetrating trauma to the  
left frontoparietal regions in ___ complicated by post 
traumatic  
cognitive decline, aphasia and refractory epilepsy who presents  

with reports that the newest  medication added for seizure 
control (clobazam) has been  associated with gait instability 
and increased falls.  

Given his history of electrographic seizures (see EEG reports  
from ___ to ___, we started cvEEG so that this may guide a  
safe medication titration, and to r/o seizure-related falling. 
Mr. ___ has had no clinical seizures during this 
admission. His EEG has remained without interictal 
abnormalities.

___ was consulted, and nursing was encouraged to walk with pt at 
least once per shift. Per ___, has hemiparetic gait but is well 
compensated. Orthostatics were obtained repeatedly, and were 
negative.

We continued the following AEDs: ZON 600mg/d, CLB ___ mg BID 
for now. However, after discussing this with Mr. ___ 
___ epileptologist, Dr. ___ have started 
decreasing OXC by 300 mg/day (to 1200 mg BID). She will see Mr. 
___ in clinic.  

After discussion with his mother, Mr. ___ return
home today, and follow-up will be arranged with epilepsy nursing
in the next two weeks, and with Dr. ___ in the next
four to six weeks.

 
Medications on Admission:
Currently, the patient
is on the following medications: 
- clobazam 10mg AM, 15mg ___ 
- fluoxetine 40mg daily 
- ativan 1mg PRN daily for seizures/aura 
- oxcarbazepine 1500mg BID 
- simvastatin 40mg daily 
- zonisamide 600mg daily 
- loratadine 10mg daily 
- Vit D3 1000U daily 

 
Discharge Medications:
1. Clobazam 10 mg PO DAILY 
2. Clobazam 15 mg PO HS 
3. Fluoxetine 40 mg PO DAILY 
4. Oxcarbazepine 1200 mg PO BID 
5. Simvastatin 40 mg PO DAILY 
6. Zonisamide 600 mg PO DAILY 
7. Lorazepam 1 mg PO DAILY:PRN seizures/aura 
8. Loratadine *NF* 10 mg Oral daily 
9. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Seizures

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 
you were admitted because of concerns about your walking, and 
worries about an increased frequency of falls. We were concerned 
that this happened due to either seizure activity or medication 
side effects. We monitored you on EEG, an did not see any 
seizures. We decreased one of your seizure medications 
(oxcarbazepine aka Trileptal), without any adverse effects. This 
was done after consulting your outpatient neurologist, Dr. 
___. You walked several times with the doctors, 
nurses, and also with our physical therapist, and we did not 
observe any unstable gait or falling. At this point, we believe 
you are safe to go home on the lower dose of oxcarbazepine 
(Trileptal).

Your antiepileptic medications are now as follows:
CONTINUE clobazam (Onfi) 10mg in the morning and 15 mg in the 
evening.
CONTINUE zonisamide (Zonegran) 600mg in the evening
CONTINUE oxcarbazepine (Trileptal) at the lower dose of 1200 mg 
twice daily

It was a pleasure taking care of you during this 
hospitalization.

 
Followup Instructions:
___